US08071595B2
To a solution of ethyl 2-(4-(quinolin-2-ylmethoxy)phenyl)acetate (25 g, 0.07 mol) in 1:1 (MeOH:THF) (400 mL) were added LiOH.H2O (6.3 g, 0.38 mol) and water (50 mL). The mixture was then stirred at RT for 1 h. The reaction mixture was then concentrated in vacuo. The residue was then acidified with aqueous HCl (1N) and extracted with EtOAc (2×300 mL). The combined organic layers were washed with water, dried over Na2SO4 and concentrated in vacuo to afford 2-(4-(quinolin-2-ylmethoxy)phenyl)acetic acid (9.0 g, 40%) as a solid.

reactant | ethyl 2-(4-(quinolin-2-ylmethoxy)phenyl)acetate | 0.07 mol, 25 g | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)CC(=O)OCC | C20H19NO3
reactant | MeOH | CO | CH4O
reactant | THF | C1CCOC1 | C4H8O
reactant | LiOH.H2O | 0.38 mol, 6.3 g | O[Li].O
solvent | water | 50 mL | O | H2O
product | 2-(4-(quinolin-2-ylmethoxy)phenyl)acetic acid | 9.0 g, 40% | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)CC(=O)O | C18H15NO3
